US07402580B2
4-(3-nitrobenzoyl)thiomorpholine-3-carboxylic acid ethyl ester
To a solution of thiomorpholin-3-ylcarboxylic acid ethyl ester (5.05 g) in methylene chloride (120 mL) were added dimethylaminopyridine (352 mg), triethylamine (4.9 mL) and 3-nitrobenzoyl chloride (5.62 g) in ice bath and then the mixture was stirred at room temperature overnight. 2N hydrochloric acid was added to the reaction mixture, which was extracted with methylene chloride. The extract was wash with a saturated aqueous sodium hydrogen carbonate solution and brine sequentially, dried over anhydrous magnesium sulfate and concentrated. The residue was purified by column chromatography on silica gel (hexane:ethyl acetate=2:1) to give the title compound (5.91 g) having the following physical data.

reactant | thiomorpholin-3-ylcarboxylic acid ethyl ester | 5.05 g | C(C)OC(=O)C1NCCSC1 | C7H13NO2S
reactant | dimethylaminopyridine | 352 mg | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | 3-nitrobenzoyl chloride | 5.62 g | [N+](=O)([O-])C=1C=C(C(=O)Cl)C=CC1 | C7H4ClNO3
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | methylene chloride | 120 mL | C(Cl)Cl | CH2Cl2
solvent | triethylamine | 4.9 mL | C(C)N(CC)CC | C6H15N
product | 4-(3-nitrobenzoyl)thiomorpholine-3-carboxylic acid ethyl ester | 5.91 g | C(C)OC(=O)C1N(CCSC1)C(C1=CC(=CC=C1)[N+](=O)[O-])=O | C14H16N2O5S
